US04421758
(a) Trans-6-[α-(4-chlorophenyl)-2,4-dichlorobenzyloxy]-2-tosyloxymethyltetrahydropyran
2.10 g of α-(4-chlorophenyl)-2,4-dichlorobenzyl alcohol and 1.78 of 2-tosyloxymethyl-3,4-dihydro-2H-pyran were dissolved in 40 ml of diethyl ester, and a catalytic amount (2 drops) of phosphorus oxytrichloride was added to the solution. The mixture was then stirred at room temperature for 4 days, after which 3 drops of triethylamine were added. The mixture was then concentrated by evaporation under reduced pressure and the residue was purified by column chromatography through silica gel eluted with a 15:5:1 by volume mixture of hexane, benzene and ethyl acetate, to give 3.41 g of the title compound in the form of a colourless oil.

reactant | α-(4-chlorophenyl)-2,4-dichlorobenzyl alcohol | 2.10 g | ClC1=CC=C(C=C1)C(C1=C(C=C(C=C1)Cl)Cl)O | C13H9Cl3O
reactant | 2-tosyloxymethyl-3,4-dihydro-2H-pyran | S(=O)(=O)(C1=CC=C(C)C=C1)OCC1OC=CCC1 | C13H16O4S
catalyst | phosphorus oxytrichloride | 2 drops | O=P(Cl)(Cl)Cl | Cl3OP
catalyst | triethylamine | 3 drops | C(C)N(CC)CC | C6H15N
product | Trans-6-[α-(4-chlorophenyl)-2,4-dichlorobenzyloxy]-2-tosyloxymethyltetrahydropyran | 3.41 g | ClC1=CC=C(C=C1)C(C1=C(C=C(C=C1)Cl)Cl)O[C@H]1CCC[C@@H](O1)COS(=O)(=O)C1=CC=C(C)C=C1 | C26H25Cl3O5S
